US09102673B2
Step 2: 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
To a solution of ethyl 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate (80 mg, 0.15 mmol) in THF (2 mL) was added EtOH (0.4 mL)m and water (0.4 mL). Solid LiOH (75 mg, 3.1 mmol) was then added in a single portion. After 2 h at r.t. and 2 h at 50 C, the reaction was quenched with 5% potassium bisulfate until acidic (˜pH 3) which caused a white precipitate to form. This was filtered and washed with water to yield the title compound (65 mg). HRMS (ESI) calc (M+H)+=487.1475. found 487.1478.

reactant | ethyl 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylate | 0.15 mmol, 80 mg | C(C)OC=1C=C(C=CC1)C=1N=CC=C2C1NC(=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)OCC | C27H25F3N2O5
reactant | EtOH | 0.4 mL | CCO | C2H6O
reactant | water | 0.4 mL | O | H2O
reactant | LiOH | 3.1 mmol, 75 mg | [Li+].[OH-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-(3-ethoxyphenyl)-3-{2-[4-(trifluoromethoxy)phenoxy]ethyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 65 mg | C(C)OC=1C=C(C=CC1)C=1N=CC=C2C1NC(=C2CCOC2=CC=C(C=C2)OC(F)(F)F)C(=O)O | C25H21F3N2O5
